US08536210B2
Step 1: 1,3-Dimethyl-2,4-dioxo-6-(4-phenylpiperazin-1-yl)-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde
To an ice-cooled, stirred solution of 6-chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (0.600 g, 2.96 mmol) and triethyl-amine (0.45 ml, 3.26 mmol) in dichloromethane (20 ml), a solution of N-phenylpiperazine (0.49 ml, 3.26 mmol) in dichloromethane (10 ml) was added dropwise. The resulting suspension was stirred at room temperature until the starting material was consumed (3.5 h, monitored by TLC). Then the reaction mixture was washed with water (3×10 ml), and the organic phase was dried over 20, anhydrous MgSO4. The solvent was evaporated in vacuo, and the brown oily crude product was purified by column chromatography with a mixture of dichloromethane:ethyl acetate (1:1) as the eluent and crystallized from ethanol.

reactant | 6-chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | 2.96 mmol, 0.600 g | ClC1=C(C(N(C(N1C)=O)C)=O)C=O | C7H7ClN2O3
reactant | triethyl-amine | 3.26 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenylpiperazine | 3.26 mmol, 0.49 ml | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1,3-Dimethyl-2,4-dioxo-6-(4-phenylpiperazin-1-yl)-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | CN1C(N(C(C(=C1N1CCN(CC1)C1=CC=CC=C1)C=O)=O)C)=O | C17H20N4O3
